US07091214B2
tert-Butyl 4-[(4-amino-7-bromo-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate (9.24 g, 18.9 mmol) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (3.39 g, 20.8 mmol) were coupled according to the method described in Examples 118–121. Additional reagents were added after the reaction was heated for 16 hours, and the reaction was continued for 16 hours. Water (20 mL) was added, and the n-propanol was removed under reduced pressure. The remaining mixture was extracted with chloroform (2×200 mL), and the combined organic fractions were purified by column chromatography on silica gel (eluting with chloroform and chloroform:CMA). The resulting solid was recrystallized from acetonitrile to provide 5.44 g of tert-butyl 4-{[4-amino-2-ethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidine-1-carboxylate as a white, fluffy solid, mp 229–231° C.

reactant | tert-Butyl 4-[(4-amino-7-bromo-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate | 18.9 mmol, 9.24 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCN(CC2)C(=O)OC(C)(C)C)CC)Br | C23H30BrN5O2
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 20.8 mmol, 3.39 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
solvent | Water | 20 mL | O | H2O
product | tert-butyl 4-{[4-amino-2-ethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidine-1-carboxylate | 5.44 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCN(CC2)C(=O)OC(C)(C)C)CC)C=2C=NC=CC2 | C28H34N6O2
